US05334576
Preparation of 5-(hydroxymethyl)-6-methylpyridine-2,3-dicarboxylic acid, diethyl ester
A solution of 464 g 6-methyl-2,3,5-pyridinetricarboxylic acid, 2,3-diethyl ester in 2.5 L toluene is cooled, under nitrogen, 5° with mechanical stirring while 200 mL of borane-dimethylsulfide complex is added dropwise over a one hour and 30 minute period. After stirring at room temperature for three days, the reaction is cooled to 10° and quenched with 250 mL of concentrated hydrochloric acid. A further 500 mL of 3M hydrochloric acid and 250 mL of ethyl acetate is added, and the reaction is vigorously stirred for three hours and 30 minutes. The organic layer can be filter chromatographed through silica gel and concentrated in vacuo to recover 96 g unreacted starting material. The aqueous layer is neutralized with 50% sodium hydroxide, extracted with ethyl acetate, concentrated in vacuo, and chromatographed on silica gel using hexane-ethyl acetate mixtures to afford 44 g of the desired product as an oil.

reactant | 6-methyl-2,3,5-pyridinetricarboxylic acid, 2,3-diethyl ester | 464 g | CC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)C(=O)[O-]
solvent | toluene | 2.5 L | C1(=CC=CC=C1)C | C7H8
product | 5-(hydroxymethyl)-6-methylpyridine-2,3-dicarboxylic acid, diethyl ester | 44 g | OCC=1C=C(C(=NC1C)C(=O)OCC)C(=O)OCC | C13H17NO5
